US04898876
1-Isopropyl-4-[4-(9-fluorenylidene acetyloxy)benzoyl]piperazine
To a 20 ml chloroform solution containing 2.67 g (12 mmol) of 9-fluorenylidene acetic acid, 2.48 g (10 mmol) of 1-(4-hydroxybenzoyl)-4-isopropylpiperazine and 122 mg (1 mmol) of 4-dimethylaminopyridine was added 2.48 g (12 mmol) of dicyclohexyl carbodiimide, and the mixture was stirred at room temperature for 3 hours. Any insoluble matter which had formed was removed by filtration, and the filtrate was concentrated under reduced pressure. Thereafter, any insoluble matter was removed by filtration using 20 ml of ethyl acetate, and the filtrate was extracted up to 60 ml of 1N hydrochloric acid. After being washed with ethyl acetate, the extract was neutralized with sodium hydrogen carbonate and extracted up to 60 ml of chloroform. After being washed twice with water, the extract was dried over magnesium sulfate and concentrated under reduced pressure to obtain yellow crystals. Recrystallization of the crystals from ethyl acetate-petroleum ether gave yellow prismatic crystals.

reactant | 9-fluorenylidene acetic acid | 12 mmol, 2.67 g | C1=CC=CC=2C3=CC=CC=C3C(C12)=CC(=O)O | C15H10O2
reactant | 1-(4-hydroxybenzoyl)-4-isopropylpiperazine | 10 mmol, 2.48 g | OC1=CC=C(C(=O)N2CCN(CC2)C(C)C)C=C1 | C14H20N2O2
reactant | dicyclohexyl carbodiimide | 12 mmol, 2.48 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 1 mmol, 122 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Isopropyl-4-[4-(9-fluorenylidene acetyloxy)benzoyl]piperazine | C(C)(C)N1CCN(CC1)C(C1=CC=C(C=C1)OC(C=C1C2=CC=CC=C2C=2C=CC=CC12)=O)=O | C29H28N2O3
